US04749712
5-(1,1-Dimethylethyl)-2,3-bis(4-methoxyphenyl)thiophene
A suspension of 2,3-bis(4-methoxyphenyl)thiophene (3.6 g, 12 mmole) and 2,6-di-t-butylcresol (2.4 g, 10.9 mmole) in 37 ml of nitromethane was cooled in an ice/acetone bath and treated with a solution of aluminum chloride (1.8 g, 13.5 mmole) in 27 ml of nitromethane. The reaction mixture was stirred for 4 hours in the cooling bath and then left in the refrigerator (ν0°) overnight. The mixture was poured into ice/water and extracted with ethyl acetate. The organic extracts were washed with 3N HCl, 1N sodium hydroxide and brine, dried and concentrated in vacuo. The material thereby obtained was combined with material from a similar reaction and chromatographed on a Waters Prep 500 (hexane/ethyl acetate, 9:1). Recrystallization from hexane provided the title compound (2.1 g, 29%), m.p. 112°-115°. Proton NMR and IR spectra were consistent with the assigned structure. MS: m/z 352 (M+), 337 (M--CH3).

reactant | 2,3-bis(4-methoxyphenyl)thiophene | 12 mmole, 3.6 g | COC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)OC | C18H16O2S
reactant | 2,6-di-t-butylcresol | 10.9 mmole, 2.4 g | C(C)(C)(C)C1(CC=CC(=C1O)C(C)(C)C)C | C15H26O
reactant | aluminum chloride | 13.5 mmole, 1.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitromethane | 37 ml | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 27 ml | [N+](=O)([O-])C | CH3NO2
product | 5-(1,1-Dimethylethyl)-2,3-bis(4-methoxyphenyl)thiophene | 2.1 g, 29% | CC(C)(C)C1=CC(=C(S1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C22H24O2S
